US04251659
A mixture of 49.4 g (0.2 mole) of bromodiphenylmethane (an equimolar quantity of chlorodiphenylmethane may be used instead), 23.8 g (0.2 mole) of indoline, 55.2 g (0.4 mole) of anhydrous potassium carbonate, and 200 ml of toluene is refluxed for 16 hrs under nitrogen with good stirring. The salts are removed by filtration, and the solvent is evaporated. The residue is chromatographed on silica gel with 30:70 toluene-hexane as the eluent. The product is a viscous oil, which can be crystallized from ethanol to give 1-benzhydryl-indoline, m.p. 62°-63.5°. The structure is confirmed by nmr spectroscopy and elemental analysis:

reactant | bromodiphenylmethane | 0.2 mole, 49.4 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | chlorodiphenylmethane | ClC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Cl
reactant | indoline | 0.2 mole, 23.8 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | potassium carbonate | 0.4 mole, 55.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzhydryl-indoline | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCC2=CC=CC=C12 | C21H19N
